US07192982B2
(2S)-3-(4-{3-[4-(2-Fluoro-benzoyl)-phenoxy]-propoxy}-phenyl)-2-methoxy-propionic acid
The title compound was prepared from (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin (Example 94, Step D) via Mitsunobu coupling with 2-fluoro-4′-hydroxybenzophenone and cleavage from the resin (Standard Procedure G) gave an oily solid (7%). 1H-NMR (200.15 MHz, CDCl3): δ 7.81 (dd, 2H, J=8.8, 1.3), 7.54–7.45 (m, 2H), 7.28–7.09 (m, 4H), 6.94 (d, 2H, J=8.6), 6.83 (d, 2H, J=8.6), 4.24 (t, 2H, J=6.2), 4.14 (t, 2H, J=6.2), 3.98 (dd, 1H, J=7.0, 4.6), 3.40 (s, 3H), 3.09 (dd, 1H, J=14.2, 4.6), 2.96 (dd, 1H, J=14.2, 7.0), 2.28 (q, 2H, J=6.2).

reactant | (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 2-fluoro-4′-hydroxybenzophenone | FC1=C(C(=O)C2=CC=C(C=C2)O)C=CC=C1 | C13H9FO2
product | (2S)-3-(4-{3-[4-(2-Fluoro-benzoyl)-phenoxy]-propoxy}-phenyl)-2-methoxy-propionic acid | FC1=C(C(=O)C2=CC=C(OCCCOC3=CC=C(C=C3)C[C@@H](C(=O)O)OC)C=C2)C=CC=C1 | C26H25FO6
